US07230020B2
Reaction of 5-amino-indan-1-one (73 mg, 0.50 mmol) in THF (6 mL) with m-anisoyl chloride (90 μL, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave 3-methoxy-N-(1-oxo-indan-5-yl)-benzamide (73 mg, 0.26 mmol, 52% yield) as a yellow powder after purification by chromatography on silica gel (eluent EtOAc/DCM 0/10 to 1/9).

reactant | 5-amino-indan-1-one | 0.50 mmol, 73 mg | NC=1C=C2CCC(C2=CC1)=O | C9H9NO
reactant | m-anisoyl chloride | 0.65 mmol, 90 μL | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-methoxy-N-(1-oxo-indan-5-yl)-benzamide | 0.26 mmol, 73 mg, 52% yield | COC=1C=C(C(=O)NC=2C=C3CCC(C3=CC2)=O)C=CC1 | C17H15NO3
